* sg13g2-bandgap -- SG13CMOS5L bandgap_top PEX (post-layout) closed-loop
* PVT testbench (issue #84). Generated from
* sim/sg13cmos5l-closed-loop-startup-pex/testbench/tb_sg13cmos5l_closed_loop_startup_pex.spice.tmpl
* by sim/sg13cmos5l-closed-loop-startup-pex/run_pvt_sweep.sh -- do not edit a
* generated netlist-snapshots/*.spice file directly, edit this template and
* re-run the sweep. Full rationale is in
* sim/sg13cmos5l-closed-loop-startup-pex/README.md.
*
* Generated for: corner=sf temp=125C vdd=3.30V
* DUT git sha (design/sg13cmos5l/netlist/{bandgap_core,bandgap_amp,
*   bandgap_startup}.spice -- schematic-sourced bipolar/resistor devices,
*   see below):
*   core=a6dcd36 startup=8361d0d
* Layout git sha (layout/sg13cmos5l-bandgap_top/sg13cmos5l-bandgap_top.gds,
*   extraction input):
*   0485f7e
* PDK: ihp-sg13cmos5l /Users/rwalters/share/pdk (see sim/pdk-sg13cmos5l.json for the pinned
*   revision)
* OSDI models: /Users/rwalters/share/pdk/ihp-sg13cmos5l/libs.tech/ngspice/osdi (this PDK ships these prebuilt -- see
*   sim/pdk-sg13cmos5l.json "osdi_toolchain")
*
* THIS IS A HYBRID PEX NETLIST, NOT A PURE LAYOUT EXTRACTION -- read
* sim/sg13cmos5l-closed-loop-startup-pex/README.md "What this does and does
* not model" before trusting a result here. Short version:
*   - Every MOS device (XM1-3 in the core, XMTAIL/XMP1-4/XMN1-4 in the amp,
*     XMSENSE/XMKFB in the startup circuit -- 14 devices total, matching
*     layout/sg13cmos5l-bandgap_top/pex_extract_report.json's own
*     device_counts {"nfet": 6, "pfet": 8}) is re-encoded as an X-subckt
*     call to the real sg13_hv_pmos/sg13_hv_nmos compact model (the
*     extraction's own native `M...pfet`/`M...nfet` cards reference a
*     generic placeholder model name, not the real PDK subckt -- same
*     re-encoding sim/core-open-loop-bias-pex/README.md's own precedent
*     documents for SG13G2), carrying the real drawn w/l AND the real
*     drawn junction as/ad/ps/pd geometry from
*     layout/sg13cmos5l-bandgap_top/sg13cmos5l-bandgap_top.pex.spice --
*     every device's w/l numerically matches the schematic's own nominal
*     value already (confirmed device-by-device below), so the actual new
*     information this PEX pass adds is the junction geometry, which the
*     schematic-level testbench omits (defaults to as=ad=ps=pd=0 per
*     sg13_hv_pmos/nmos's own subckt default -- see
*     libs.tech/ngspice/models/sg13g2_moshv_mod.lib).
*   - Every extracted device's as_um2==ad_um2 and ps_um==pd_um (confirmed
*     directly in pex_extract_report.json, symmetric drawn source/drain
*     geometry throughout), so the extraction's own D/S-terminal-order
*     divergence from the schematic (klayout-tools writes `nd=... ng=...
*     ns=...` in whatever order KLayout's connectivity walk visits, not
*     necessarily the schematic's d/g/s convention) is electrically
*     inconsequential here -- disclosed, not silently assumed. This lets
*     every device below keep the schematic's own d/g/s/b node order
*     unchanged.
*   - XQ1/XQ2/XQ3 (pnpMPA) and XR1/XR2 (rppd, core) and XRPU (rhigh,
*     startup) are NOT extracted from the layout at all -- klt's curated
*     sg13cmos5l deck still does not recognise bipolar or resistor device
*     classes (klayout-tools#1242, #1415, already filed). They are spliced
*     in verbatim from design/sg13cmos5l/netlist/{bandgap_core,
*     bandgap_startup}.spice, wired to the SAME real layout net names the
*     extraction itself reports as real, physically-routed pins (sns1,
*     sns2, vref, vdd, vss, fb, det) -- not invented nodes.
*   - NO WIRE (metal) PARASITICS ARE MODELLED HERE -- unlike the SG13G2
*     precedent (which wires in real Metal1/Metal2 R/C, issue #37). Not a
*     scope choice: `klt extract --deck sg13cmos5l --parasitics` fails
*     outright ("unknown deck 'sg13cmos5l'") because the sg13cmos5l deck's
*     module is registered in every OTHER per-deck lookup table in
*     klayout_tools.decks.__init__ except `_parasitics_registry()` -- a
*     wiring bug distinct from (and found on top of) the already-known
*     device-class gaps above, filed generically as
*     klayout-tools#1440. Even if that registry gap is fixed, the deck's
*     own module comment documents it will report zero R/C for every net
*     regardless (no curated sheet-resistance/capacitance table exists yet
*     for this starter deck) -- so this pass extracts device geometry only,
*     never attempts a wire-parasitic claim it cannot back, and every net
*     below is the same idealized zero-impedance node the schematic-level
*     testbench already uses.
*   - The extracted PMOS legs' body terminals are genuinely floating in the
*     layout (`unbiased_pmos_body_nets`, 8 entries -- no drawn well/
*     substrate-tap layer at all, klayout-tools#1414, already filed). This
*     testbench ties each PMOS body to vdd directly (b=vdd below),
*     mirroring the schematic's own real body-tied-to-vdd intent -- a
*     testbench fixture bridging a known, disclosed deck gap, not a claim
*     about the real layout's body connectivity.
*   - XMSENSE's w=10u below is the routed layout's OWN drawn value (from
*     pex_extract_report.json device $5), not read live from
*     design/sg13cmos5l/netlist/bandgap_startup.spice the way the
*     pre-layout sg13cmos5l-closed-loop-startup testbench does -- a
*     post-layout claim must reflect the physical GDS, not whatever the
*     schematic currently says. It happens to equal the schematic's
*     current w=10u (post decision record 0003 / issue #32's SG13G2
*     regeneration, and issue #74's matching CMOS5L layout draw) -- if a
*     future schematic-only resize diverges from this without a layout
*     regeneration, this PEX record will silently go stale exactly the way
*     issue #37/#56 describe for the SG13G2 side; 0485f7e above
*     is the freshness anchor to check.

.lib "/Users/rwalters/share/pdk/ihp-sg13cmos5l/libs.tech/ngspice/models/cornerPNP.lib" typ
.lib "/Users/rwalters/share/pdk/ihp-sg13cmos5l/libs.tech/ngspice/models/cornerMOShv.lib" mos_sf
.lib "/Users/rwalters/share/pdk/ihp-sg13cmos5l/libs.tech/ngspice/models/cornerRES.lib" res_typ

* rshunt=1e9 / gmin=1e-9: convergence aids only, both far below any current
* this testbench measures -- same values and same rationale
* sim/sg13cmos5l-closed-loop-startup uses (see that experiment's own
* template header for the full account).
.options temp=125 tnom=27 rshunt=1e9 gmin=1e-9

* FIXTURE -- transient supply ramp, same shape
* sim/sg13cmos5l-closed-loop-startup uses: vdd itself ramps 0 -> VDD over
* 200 us and holds to 2 ms, so the assembled block's own
* cold-start -> closed-loop-settled transition is what the simulator solves
* for.
Vvdd vdd 0 PWL(0 0 200u 3.30 2m 3.30)
Vvss vss 0 dc 0
* bandgap_core.spice wires its resistor bulk terminals (rppd inside the
* core) to the global substrate net `sub!`, the same convention every
* schematic-sourced testbench in this tree uses.
Vsub sub! vss dc 0

* DUT -- bandgap_core, extracted MOS geometry + schematic-sourced bipolar
* and resistor devices. Grounded-collector pnpMPA legs (base+collector at
* vss, emitter at the sense node) -- see
* sim/sg13cmos5l-core-open-loop-bias/README.md for the full topology
* account. Extraction provenance: XM1/XM2/XM3 <- pex_extract_report.json
* devices $12/$13/$14.
XM1 sns1 fb vdd vdd sg13_hv_pmos w=10u l=1u ng=1 m=1 as=4p ad=4p ps=20.8u pd=20.8u
XQ1 vss vss sns1 pnpMPA a={ 1u * 2u } p={ ( 1u + 2u ) * 2 } m=1
XM2 sns2 fb vdd vdd sg13_hv_pmos w=10u l=1u ng=1 m=1 as=4p ad=4p ps=20.8u pd=20.8u
XR2 sns2 e2 sub! rppd w=2u l=85.1u m=1 b=0
XQ2 vss vss e2 pnpMPA a={ 1u * 2u } p={ ( 1u + 2u ) * 2 } m=8
XM3 vref fb vdd vdd sg13_hv_pmos w=10u l=1u ng=1 m=1 as=4p ad=4p ps=20.8u pd=20.8u
XR1 vref e3 sub! rppd w=2u l=647.0u m=1 b=0
XQ3 vss vss e3 pnpMPA a={ 1u * 2u } p={ ( 1u + 2u ) * 2 } m=1

* DUT -- bandgap_amp, fully extracted MOS geometry (no bipolar/resistor
* devices in this leaf). in_p <- sns2 (non-inverting), in_n <- sns1
* (inverting), out -> fb -- same polarity design/sg13cmos5l/bandgap_amp.sch
* specifies. Extraction provenance: XMTAIL <- $9, XMP1 <- $7, XMP2 <- $8,
* XMP3 <- $11, XMP4 <- $10, XMN1 <- $2, XMN2 <- $3, XMN3 <- $1, XMN4 <- $4.
XMTAIL tail fb vdd vdd sg13_hv_pmos w=10u l=1u ng=1 m=1 as=4p ad=4p ps=20.8u pd=20.8u
XMP1 d1 sns2 tail vdd sg13_hv_pmos w=20u l=1u ng=1 m=1 as=8p ad=8p ps=40.8u pd=40.8u
XMP2 d2 sns1 tail vdd sg13_hv_pmos w=20u l=1u ng=1 m=1 as=8p ad=8p ps=40.8u pd=40.8u
XMP3 pn pn vdd vdd sg13_hv_pmos w=10u l=1u ng=1 m=1 as=4p ad=4p ps=20.8u pd=20.8u
XMP4 fb pn vdd vdd sg13_hv_pmos w=10u l=1u ng=1 m=1 as=4p ad=4p ps=20.8u pd=20.8u
XMN1 d1 d1 vss vss sg13_hv_nmos w=10u l=1u ng=1 m=1 as=4p ad=4p ps=20.8u pd=20.8u
XMN2 d2 d2 vss vss sg13_hv_nmos w=10u l=1u ng=1 m=1 as=4p ad=4p ps=20.8u pd=20.8u
XMN3 fb d1 vss vss sg13_hv_nmos w=10u l=1u ng=1 m=1 as=4p ad=4p ps=20.8u pd=20.8u
XMN4 pn d2 vss vss sg13_hv_nmos w=10u l=1u ng=1 m=1 as=4p ad=4p ps=20.8u pd=20.8u

* DUT -- bandgap_startup, extracted MOS geometry (XMSENSE/XMKFB) +
* schematic-sourced resistor (XRPU). `sns1` and `fb` are shared with the
* core and amp DUTs above -- the nodes the assembled block actually
* connects. No separate stimulus source drives either one.
*
* FIXTURE -- Vmkfb is a 0 V ammeter in series with XMKFB's drain, so the
* startup circuit's own contribution to the shared fb node can be measured
* directly (i_mkfb below) rather than inferred from fb's voltage alone. A
* 0 V source is a DC/transient short and does not move the operating
* point. Extraction provenance: XMSENSE <- $5, XMKFB <- $6.
XRPU vdd det sub! rhigh w=1u l=1411.3u m=1 b=0
XMSENSE det sns1 vss vss sg13_hv_nmos w=10u l=0.5u ng=1 m=1 as=4p ad=4p ps=20.8u pd=20.8u
Vmkfb fb fbx dc 0
XMKFB fbx det vss vss sg13_hv_nmos w=2u l=0.5u ng=1 m=1 as=0.8p ad=0.8p ps=4.8u pd=4.8u

.control
pre_osdi /Users/rwalters/share/pdk/ihp-sg13cmos5l/libs.tech/ngspice/osdi/psp103.osdi
pre_osdi /Users/rwalters/share/pdk/ihp-sg13cmos5l/libs.tech/ngspice/osdi/psp103_nqs.osdi
pre_osdi /Users/rwalters/share/pdk/ihp-sg13cmos5l/libs.tech/ngspice/osdi/mosvar.osdi
pre_osdi /Users/rwalters/share/pdk/ihp-sg13cmos5l/libs.tech/ngspice/osdi/r3_cmc.osdi
tran 2u 2m
* Early-ramp check (t=20us, vdd ~10% of final value, core+amp still
* degenerate/starting): the startup circuit should still be actively
* engaged (det high, fb low).
meas tran v_det_early find v(det) at=20u
meas tran v_fb_early find v(fb) at=20u
* Final (fully ramped + settled) closed-loop state -- the actual claim
* under test: did the real error amplifier close the loop and settle, with
* the startup circuit fully released, using post-layout MOS geometry?
meas tran v_fb_v find v(fb) at=2m
meas tran v_sns1_v find v(sns1) at=2m
meas tran v_sns2_v find v(sns2) at=2m
meas tran v_vref_v find v(vref) at=2m
meas tran v_det_v find v(det) at=2m
meas tran i_mkfb_v find i(Vmkfb) at=2m
.endc
.end
